US05932567
(i) Proline 2-methoxy-4-cyanobenzylamide
11.4 g (31.7 mmol) of Boc-proline 2-methoxy-4-cyanobenzylamide were dissolved in 130 ml of methylene chloride and, at 0-5° C., saturated with HCI [sic]. After 2 h the Boc group had been completely eliminated. The solvent was removed under reduced pressure, and the product was used without further purification in the next reaction. 1H-NMR (DMSO-d6 ; δ in ppm): 10.25 (s, 1H); 8.60 (s, 1H); 7.50 (d, 1H; 7.42 (dd, 1H); 7.39 (d, 1); 4.40-4.20 (m, 3H); 3.88 (s, 3H); 3.20 (m, 2H); 2.35 (m, 1H); 2.00-1.80 (m, 3H)

reactant | Boc-proline 2-methoxy-4-cyanobenzylamide | 31.7 mmol, 11.4 g | COC1=C(CNC([C@H]2N(CCC2)C(=O)OC(C)(C)C)=O)C=CC(=C1)C#N | C19H25N3O4
solvent | methylene chloride | 130 ml | C(Cl)Cl | CH2Cl2
product | Proline 2-methoxy-4-cyanobenzylamide | COC1=C(CNC([C@H]2NCCC2)=O)C=CC(=C1)C#N | C14H17N3O2
